US09212190B2
To a solution of tert-butyl N-(4-[[(3R)-3-[[(4R)-2,5-dioxoimidazolidin-4-yl]methyl]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]cyclohexyl)-N-methylcarbamate (45 mg, 0.09 mmol, 1.00 equiv) in dichloromethane (3 mL) was added hydrogen chloride (conc., 0.5 mL) at 0° C. under nitrogen. The resulting solution was stirred for 2 h at room temperature and evaporated under reduced pressure. The crude product (45 mg) was purified by preparative HPLC under the following conditions (Waters): column: XBridge Shield RP18 OBD column: 5 um, 19*150 mm; mobile phase: water with 0.03% NH3.H2O and CH3CN (16% CH3CN up to 22% in 11 min, up to 100% in 2 min, down to 16% in 2 min); UV detection at 254 and 220 nm. The product-containing fractions were collected and concentrated to remove CH3CN and water under reduced pressure. The residue was lyophilized overnight to give (5R)-5-[[(3R)-12-[[4-(methylamino)cyclohexyl]oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]methyl]imidazolidine-2,4-dione (16.5 mg) as a white solid. MS: m/z 416 (M+H)+. 1H NMR (300 MHz, CD3OD): δ 1.20-1.40 (m, 2H), 1.50-1.65 (m, 2H), 1.72-1.95 (m, 1H), 2.00-2.37 (m, 6H), 2.45 (s, 3H), 2.56-2.68 (m, 2H), 2.98-3.05 (m, 1H), 3.08-3.15 (m, 1H), 3.50 (t, 1H, J=1.5 Hz), 4.19 (dd, 2H, J=11.7, 2.7 Hz), 5.20-5.30 (m, 1H), 8.42 (s, 1H).

reactant | tert-butyl N-(4-[[(3R)-3-[[(4R)-2,5-dioxoimidazolidin-4-yl]methyl]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]cyclohexyl)-N-methylcarbamate | 0.09 mmol, 45 mg, 1.00 equiv | O=C1NC([C@H](N1)C[C@@H]1C=2C=3C(=NC=NC3SC2CC1)OC1CCC(CC1)N(C(OC(C)(C)C)=O)C)=O | C25H33N5O5S
reactant | hydrogen chloride | 0.5 mL | Cl | ClH
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | (5R)-5-[[(3R)-12-[[4-(methylamino)cyclohexyl]oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]methyl]imidazolidine-2,4-dione | 16.5 mg | CNC1CCC(CC1)OC1=NC=NC=2SC=3CC[C@@H](C3C12)C[C@@H]1C(NC(N1)=O)=O | C20H25N5O3S
